US06777418B2
Horner-Emmons olefination (following the procedure of Example) of 2-formyl-3-(4-methylbenzyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (210 mg, 0.65 mmol) followed by ester hydrolysis (following the procedure of Example) of ethyl 4-{(E)-2-[5,5,8,8-tetramethyl-3-(4-methylbenzyl)-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoate gave 4-{(E)-2-[5,5,8,8-tetramethyl-3-(4-methylbenzyl)-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoic acid (185 mg, 64%) as a white crystalline solid (m.p. 216.3-217.3° C. (CH2CL2/hexane) 42.

reactant | 2-formyl-3-(4-methylbenzyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 0.65 mmol, 210 mg | C(=O)C1=CC=2C(CCC(C2C=C1CC1=CC=C(C=C1)C)(C)C)(C)C | C23H28O
reactant | ethyl 4-{(E)-2-[5,5,8,8-tetramethyl-3-(4-methylbenzyl)-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoate | CC1(C=2C=C(C(=CC2C(CC1)(C)C)/C=C/C1=CC=C(C(=O)OCC)C=C1)CC1=CC=C(C=C1)C)C | C33H38O2
solvent | hexane | CCCCCC | C6H14
product | 4-{(E)-2-[5,5,8,8-tetramethyl-3-(4-methylbenzyl)-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoic acid | 185 mg, 64% | CC1(C=2C=C(C(=CC2C(CC1)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1)CC1=CC=C(C=C1)C)C | C31H34O2
